US05958942
i) Synthesis of 1,2-dihydro-3-methyl-1-[6-(trifluoromethanesulfonamido)hexane-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one
To a solution of 770 mg (2.83 mmol) of 1-[6-(amino)hexane-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one and 0.59 ml (4.23 mmol) of triethylamine in 25 ml of methylene chloride was added, while stirring at room temperature, 1.21 g (3.39 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for 14 hours at the same temperature. The reaction mixture was washed with water, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate) to give 633 mg of the desired compound (55.4%, pale yellow solid).

reactant | 1-[6-(amino)hexane-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 2.83 mmol, 770 mg | NCCCCCCN1C(C=2N3C(C=CC=C13)=NC2C)=O | C15H20N4O
reactant | triethylamine | 4.23 mmol, 0.59 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 3.39 mmol, 1.21 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1,2-dihydro-3-methyl-1-[6-(trifluoromethanesulfonamido)hexane-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 633 mg, 55.4% | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCCCNS(=O)(=O)C(F)(F)F)=O | C16H19F3N4O3S
